US09216981B2
The 2,6-difluoro-N1-(3-(9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-yl)pyridin-2-yl)benzene-1,3-diamine (20 mg, 0.047 mmol) prepared at Step 9 was added and dissolved into dichloromethane solvent. 3,4-dichlorobenzenesulfonyl chloride (17 mg, 0.07 mmol) and pyridine (8 uL, 0.094 mmol) were added into the reaction solution and stirred at 50° C. for 2 hours. After the reaction, the reactant was washed with 1N aqueous hydrochloric acid solution and salt water. After extraction with dichloromethane, the organic layer was dried with sulfuric anhydride magnesium and vacuum concentrated, and then refined by means of column chromatography, so that 26 mg of the target compound, 3,4-dichloro-N-(2,4-difluoro-3-(3-(9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-yl)pyridin-2-ylamino)phenyl)benzenesulfonamide (percentage yield: 89%), was obtained.

reactant | 2,6-difluoro-N1-(3-(9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-yl)pyridin-2-yl)benzene-1,3-diamine | 0.047 mmol, 20 mg | FC1=C(C(=CC=C1N)F)NC1=NC=CC=C1C1=C2N=CN(C2=NC=N1)C1OCCCC1 | C21H19F2N7O
reactant | 3,4-dichlorobenzenesulfonyl chloride | 0.07 mmol, 17 mg | ClC=1C=C(C=CC1Cl)S(=O)(=O)Cl | C6H3Cl3O2S
reactant | pyridine | 0.094 mmol, 8 uL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3,4-dichloro-N-(2,4-difluoro-3-(3-(9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-yl)pyridin-2-ylamino)phenyl)benzenesulfonamide | yield: 89% | ClC=1C=C(C=CC1Cl)S(=O)(=O)NC1=C(C(=C(C=C1)F)NC1=NC=CC=C1C1=C2N=CN(C2=NC=N1)C1OCCCC1)F | C27H21Cl2F2N7O3S
